US07157204B2
3,3′-diamino-4,4′-dihydroxybiphenyl (13.0 g) and 74.2 g of NMP were sequentially charged into a 1 L round-bottom flask. The mixture was stirred until it was completely dissolved. While maintaining the flask at room temperature, 14.9 g of ODPA was added slowly. After the resulting mixture was stirred at room temperature for 2 hours, 3.9 g of NDA was added to the flask. After the resulting mixture was stirred at room temperature for 16 hours, 16 g of toluene was added to the flask. Using a Dean-Stark distillation equipment, the reaction solution was refluxed at 140° C. for 3 hours to complete the reaction. The reaction solution thus prepared was allowed to cool to room temperature, and slowly poured into a 1:4 methanol-water mixture to obtain precipitates. The precipitates were filtered and dried in a vacuum drying oven at 40° C. for one day. 19.6 g of the soluble polyimide resin thus obtained in a powder form was charged into a 1 L round-bottom flask and dissolved in 100 g of N-methyl-2-pyrrolidone (NMP). The resulting solution was cooled on ice and then 2.12 g of triethylamine (TEA) was added thereto, maintaining the temperature at 0˜5° C. After stirring for 10 minutes, 2.27 g of chloromethylethylether was slowly added to the solution. After the resulting solution was stirred for 3 hours while maintaining it at a low temperature, triethylammonium chloride salt was filtered off. The filtrate was slowly poured into a 1:2 methanol-distilled water mixture with vigorous stirring to form precipitates as a fine white solid. The precipitates thus formed were collected, washed with 5 L of distilled water, and dried in a vacuum oven at 40° C. for 36 hours to prepare 21 g of a soluble polyimide as a white powder.

reactant | 3,3′-diamino-4,4′-dihydroxybiphenyl | 13.0 g | NC=1C=C(C=CC1O)C1=CC(=C(C=C1)O)N | C12H12N2O2
reactant | NMP | 74.2 g | CN1C(CCC1)=O | C5H9NO
reactant | ODPA | 14.9 g | C1=CC2=C(C=C1OC3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O7
reactant | toluene | 16 g | C1(=CC=CC=C1)C | C7H8
reactant | methanol water | CO.O
product | polyimide resin | 19.6 g | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
